USRE029835
1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamidine hydrochloride
A mixture of 3-cyano-1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole (7.04 g., 20.0 mmole) ammonium chloride (1.07 g., 20.0 mmol) and anhydrous ammonia (150 ml.) was heated in a bomb at 85° for 18 hours. After removal of excess ammonia, the residue was crystallized from acetonitrile-ethanol to provide 5.30 g. (95%) of product with M.P. 177°-179° dec.

reactant | 3-cyano-1-(2,3,5-tri-O-acetyl-β -D-ribofuranosyl)-1,2,4-triazole | 20.0 mmole, 7.04 g | C(#N)C1=NN(C=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C14H16N4O7
reactant | ammonium chloride | 20.0 mmol, 1.07 g | [Cl-].[NH4+]
solvent | ammonia | 150 ml | N | H3N
product | 1-(β -D-ribofuranosyl)-1,2,4-triazole-3-carboxamidine hydrochloride | Cl.[C@@H]1([C@H](O)[C@H](O)[C@H](O1)CO)N1N=C(N=C1)C(=N)N | InChI=1S/C8H13N5O4.ClH/c9-6(10)7-11-2-13(12-7)8-5(16)4(15)3(1-14)17-8;/h2-5,8,14-16H,1H2,(H3,9,10);1H/t3-,4-,5-,8-;/m1./s1
